US08383644B2
(S)-2-{[(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (25 mg), EDCI (10 mg), HOBT (8 mg) and (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (16 mg) were taken up in 1 mL of anhydrous DCM and stirred for 5 minutes. The reaction mixture was cooled to 0° C. and DIEA (21 mg) was added and reaction was stirred at room temperature for 2 hours. After the reaction was complete, the reaction mixture was loaded on a silica gel column (1:3 EtOAc:hexanes to 4% MeOH in 1:1 EtOAc:hexanes) to get purified (S)-2-{[(3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (22 mg). This was hydrolyzed according to General Procedure B to give the title compound (18 mg). LCMS (m/z): 873.

reactant | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 25 mg | ClC=1C=C(COC=2C=C(C=CC2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C34H31Cl2NO5
reactant | EDCI | 10 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester | 16 mg | COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)N)=O | C17H20N2O3
reactant | DIEA | 21 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | (S)-2-{[(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid | 18 mg | ClC=1C=C(COC=2C=C(C=CC2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)OC3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C50H47Cl2N3O7
